US08012976B2
A mixture of (E)-4-(benzylideneamino)-6-fluoroisobenzofuran-1(3H)-one (2 g, 7.8 mmol) and 1-methyl-1H-imidazole-2-carbaldehyde (0.949 g, 8.63 mmol) in ethyl propionate (50 mL) was cooled to 0° C. Then a solution of sodium ethoxide in ethanol [sodium (722 mg, 31.37 mmol) in ethanol (30 mL)] was added drop-wise. After the addition, the mixture was stirred at room temperature for 2 hr. The mixture was quenched with water (10 mL) and solvent was removed in vacuum. The residue was dissolved in water, and then extracted with ethyl acetate (100 mL×4). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, and concentrated to give crude product. The crude product was purified by chromatography (silica gel, petroleum ether/ethyl acetate=10:1 to 1:10) to give the ethyl 7-fluoro-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate (141 mg). 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 1.18-1.22 (t, 3H), 3.31 (s, 3H), 4.17-4.21 (q, 2H), 4.621-4.65 (d, 2H), 5.17-5.20 (d, 1H), 6.48-6.51 (dd, 1H), 6.70-6.73 (m, 2H), 6.86 (s, 1H), 7.24-7.30 (m, 3H), 7.42-7.44 (t, 2H), 7.76 (s, 1H); LC-MS (ESI) m/z: 394 (M+1)+.

reactant | (E)-4-(benzylideneamino)-6-fluoroisobenzofuran-1(3H)-one | 7.8 mmol, 2 g | C(/C1=CC=CC=C1)=N\C1=C2COC(C2=CC(=C1)F)=O | C15H10FNO2
reactant | 1-methyl-1H-imidazole-2-carbaldehyde | 8.63 mmol, 0.949 g | CN1C(=NC=C1)C=O | C5H6N2O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 31.37 mmol, 30 mL, 722 mg | C(C)O | C2H6O
solvent | ethyl propionate | 50 mL | C(CC)(=O)OCC | C5H10O2
product | ethyl 7-fluoro-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-2-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 141 mg | FC=1C=C(C=2C(C(C(NC2C1)C1=CC=CC=C1)C=1N(C=CN1)C)=O)C(=O)OCC | C22H20FN3O3
